US04780477
A solution of 7.66 g of the N-benzyl-2-chloro-N-isopropylacetamide in 20 ml of dry diethyl ether was added dropwise to a suspension of 1.29 g of lithium aluminum hydride in 300 ml of dry diethyl ether with stirring under ice-cooling, and the mixture was heated under reflux for 4 hours. After the reaction mixture was cooled, and to the cooled reaction mixture was added dropwise water with stirring under ice-cooling. Insoluble materials were filtered off. The filtrate was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (eluent: chloroform) to obtain 3.61 g of 2-(N-isopropylbenzylamino)ethyl chloride in an oil.

reactant | N-benzyl-2-chloro-N-isopropylacetamide | 7.66 g | C(C1=CC=CC=C1)N(C(CCl)=O)C(C)C | C12H16ClNO
reactant | lithium aluminum hydride | 1.29 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 2-(N-isopropylbenzylamino)ethyl chloride | 3.61 g | C(C)(C)N(CCCl)CC1=CC=CC=C1 | C12H18ClN
